US05274143
To a rapidly-stirred slurry of 1.29 g (4.99 mmol) methyl (R)-3-hydroxytetradecanoate and 0.45 mL (5.2 mmol) bromoacetyl bromide in 25 mL hexanes at 0° C. in a flame-dried flask under N2 was added 0.42 mL (5.2 mmol)pyridine all at once. The mixture was removed from the cold bath for 30 min. The mixture was suction filtered through celite, washing with 75 mL ether. The filtrate was washed with 2×100 mL H2O and with 50 mL 10% NaHCO3. The ether was dried over MgSO4 and removed by rotary evaporation, giving 1.70 g (90%) crude (R)-3-[(bromoacetyl)oxy]tetradecanoic acid methyl ester as a yellow oil. Analytically pure samples could be prepared by subjecting the oil to radial chromatography, eluting with CH2Cl2.

reactant | methyl (R)-3-hydroxytetradecanoate | 4.99 mmol, 1.29 g | O[C@@H](CC(=O)OC)CCCCCCCCCCC | C15H30O3
reactant | bromoacetyl bromide | 5.2 mmol, 0.45 mL | BrCC(=O)Br | C2H2Br2O
reactant | pyridine | 5.2 mmol, 0.42 mL | N1=CC=CC=C1 | C5H5N
product | (R)-3-[(bromoacetyl)oxy]tetradecanoic acid methyl ester | 1.70 g, 90% | COC(C[C@@H](CCCCCCCCCCC)OC(CBr)=O)=O | C17H31BrO4
